US08497397B2
Oxazolyl chloride (4.0 mL, 45.9 mmol) and several drops of DMF were added to a solution of dichloromethane (5 mL) containing 4-benzyloxybenzoic acid (2.29 g, 10.0 mmol) under ice-cooling, and then dichloromethane (2.5 mL) was further added thereto. The mixture was stirred at room temperature for 2.5 hours, and the solvent was evaporated. The resulting residue was dissolved in dichloromethane (20 mL), and glycine methyl ester hydrochloride (1.39 g, 11.1 mmol) and N-ethyl-N,N-diisopropylamine (4.4 mL, 25.2 mmol) were added thereto under ice-cooling. The mixture was stirred at room temperature for 18 hours, and then water was added thereto to terminate the reaction. The mixture was extracted with dichloromethane, and the organic layers were combined and concentrated. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate, 3:4 to 0:1, v/v) to give N-[4-(benzyloxy)benzoyl]glycine methyl ester. Then, 1.66 g of this ester was dissolved in a solvent mixture of methanol (8 mL) and THF (8 mL). To the resulting mixture, 20% palladium hydroxide-carbon (168 mg) was added. The mixture was vigorously stirred at room temperature under a hydrogen atmosphere for 4 hours. The reaction mixture was filtered through Celite and then concentrated to give 1.19 g of the title compound (white powder, yield: 85%).

reactant | Oxazolyl chloride | 45.9 mmol, 4.0 mL | O1C(=NC=C1)Cl | C3H2ClNO
reactant | 4-benzyloxybenzoic acid | 10.0 mmol, 2.29 g | C(C1=CC=CC=C1)OC1=CC=C(C(=O)O)C=C1 | C14H12O3
reactant | glycine methyl ester hydrochloride | 11.1 mmol, 1.39 g | Cl.COC(CN)=O
reactant | N-ethyl-N,N-diisopropylamine | 25.2 mmol, 4.4 mL | C(C)N(C(C)C)C(C)C | C8H19N
catalyst | DMF | several drops | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-[4-(benzyloxy)benzoyl]glycine methyl ester | COC(CNC(C1=CC=C(C=C1)OCC1=CC=CC=C1)=O)=O | C17H17NO4
